US06639107B1
(+,−) Trans-2-phenyl-cyclopentylamine
Methyl-bis-(2-phenyl-cyclopentyl)-borane (theoretical 34.7 mmoL) from preparation 2 was diluted with 40 mL of dry tetrahydrofuran. 8.3 g (72.9 mmol) of hydroxylamine-O-sulphonic acid (HSA) was slurried in a separate dry flask in 60 mL of THF and small portions are transferred via cannula to control the exothermic reaction. The cloudy white solution was stirred at room temperature for 24 hours. The reaction mixture was filtered and the THF removed in vacuo. The residue was treated with 30 mL of concentrated HCl, 15 mL of methanol, 20 mL of water and 60 mL of diethyl ether and stirred at room temperature for 30 minutes. The aqueous phase was collected and the organic phase washed with water and combined with the aqueous phase. The aqueous phase was cooled to 0° C., layered with diethyl ether, and made strongly basic with sodium hydroxide pellets. The organic phase was separated and the aqueous phase extracted with diethyl ether (2×) and ethyl acetate (1×). The organic phases were combined and dried over sodium sulfate. The filtrate was concentrated to 5.96 (53%) of the title compound as a yellow oil.

reactant | Methyl-bis-(2-phenyl-cyclopentyl)-borane | CB(C1C(CCC1)C1=CC=CC=C1)C1C(CCC1)C1=CC=CC=C1 | C23H29B
reactant | hydroxylamine-O-sulphonic acid | 72.9 mmol, 8.3 g | NOS(=O)(=O)O | H3NO4S
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | (+,−) Trans-2-phenyl-cyclopentylamine | C1(=CC=CC=C1)[C@H]1[C@@H](CCC1)N | C11H15N
